* C:\Users\Jason\Downloads\Real\Real\Transients\BIGtest-tran.asc
V1 N012 0 10
V2 N003 N012 SINE(0 5 10)
R1 N004 N003 10
R2 N008 N007 10
R3 N007 N001 10
R4 N004 N005 10
R5 N005 N006 10
C1 N006 N009 1
C2 N006 N009 1
C3 N009 N015 1
L1 N006 N010 1
L2 N006 N010 1
L3 N010 N016 1
L4 N008 N013 1
C4 N008 N013 1
R6 N013 N017 10
R7 N015 N017 10
R8 N016 N018 10
R9 N018 N017 10
I1 N002 N001 1
R10 N017 0 10
R11 N002 N018 10
R12 N002 N014 10
R13 N014 N018 10
R14 N005 N011 10
C5 N011 N017 1
.tran 1
.backanno
.end
